US08022099B2
a) [(3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine
To a stirred solution of [(3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine (0.46 g, 1.59 mmol) in THF (15 ml) was added 1-bromomethyl-4-trifluoromethyl-benzene (0.44 g, 1.86 mmol) and Et3N (0.155 ml, 1.59 mmol). The reaction mixture was stirred overnight at RT and concentrated under vacuo. The product purified by flash chromatography (SiO2, EtOAc/Heptane 1:4) to afford 500 mg (71%) of the title compound as a colorless oil. ES-MS m/e: 459.3 (M+H+).

reactant | [(3RS,4SR)-1-benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 1.59 mmol, 0.46 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)NC | C18H21ClN2
reactant | 1-bromomethyl-4-trifluoromethyl-benzene | 1.86 mmol, 0.44 g | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | Et3N | 1.59 mmol, 0.155 ml | CCN(CC)CC | C6H15N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | [(3RS,4SR)-1-Benzyl-4-(3-chloro-phenyl)-pyrrolidin-3-yl]-methyl-(4-trifluoromethyl-benzyl)-amine | 500 mg, 71% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=CC=C1)Cl)N(CC1=CC=C(C=C1)C(F)(F)F)C | C26H26ClF3N2
